US05922751
C. 4-(3-Cyclopentyloxy-4-methoxy-benzyl)-5-methyl-pyrazol-3-one
To a stirred solution of ethyl 2-acetyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-propanoate (585 mg, 1.74 mmol) in absolute ethanol (10 ml) at 0° C. was added hydrazine monohydrate (87 mg, 1.74 mmol) in one portion. The resulting solution was stirred at 0° C. for 45 minutes and then refluxed at 80° C. for 3 hours. After cooling to room temperature, the reaction mixture was concentrated in vacuo and purified by flash chromatography (SiO2 ; methylene chloride/ethanol/ammonia (4:1:0.1)) to afford the title compound as a white solid (343 mg). m.p. 186-187° C.

reactant | ethyl 2-acetyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-propanoate | 1.74 mmol, 585 mg | C(C)(=O)C(C(=O)OCC)CC1=CC(=C(C=C1)OC)OC1CCCC1 | C19H26O5
reactant | hydrazine monohydrate | 1.74 mmol, 87 mg | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(3-Cyclopentyloxy-4-methoxy-benzyl)-5-methyl-pyrazol-3-one | 343 mg | C1(CCCC1)OC=1C=C(CC=2C(N=NC2C)=O)C=CC1OC | C17H20N2O3
